Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia, Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o. woman with a history most notable for COPD on 24h O2 3L 
NC, Stage II Squamous Cell Carcinoma s/p chemoradiation, Right 
Breast Invasive Lobular Carcinoma s/p mastecomy presents with 
dyspnea and worsend hypoxia. The patient saw her PCP on ___ 
and at time that was found to be hypoxic to O2 70% at rest. The 
patient had a CXR which was overall unremarkable, however, there 
was a concern for possible PE and the patient was sent to ___ 
for further evaluation.  

In the ED, the patient's initial VS were T 98.4 HR 110 BP 151/55 
SpO2 69% RA. The patient was placed on NRB. Exam was notable for 
good air movement without any wheezing. Initial labs notable for 
hemolyzed Chem 7, CBC was normal. VBG notable for pH 7.38 pCO2 
50 pO2 44 HCO3 31. Lactate was 3.3. UA was grossly normal. CXR 
was unremarkable for pneumonia although some possible persistent 
right-sided pleural effusion. CTA was negative for PE. Trop was 
negative x1. The patient was given Albuterol/Ipratropium nebs, 
Methylprednisolone 125 mg IV, and Azitromycin 500 mg PO x1. The 
patient's dyspnea improved with treatment but was found to 
desaturate to the ___ with ambulation. Decision was made to 
admit patient for further workup. Transfer VS were T 98.1 HR 107 
BP 146/69 RR 18 SpO2 99% 3L NC.

On the floor, the patient reported improved dyspnea. She 
endorsed some orthopnea, but denied any chest pain, 
palpitations, lightheadedness, ___ edema. 

 
Past Medical History:
1. Chronic Obstructive Pulmonary Disorder (COPD)
2. Stage II Squamous Cell Carcinoma
3. Right Breast Invasive Lobular Carcinoma s/p Mastectomy 
4. Hypertension
5. Diabetes Mellitus

 
Social History:
___
Family History:
Father and brother had COPD.

 
Physical Exam:
ON ADMISSION:
VS T 97.0 HR 107 BP 145/62 RR 18 SpO2 94% 4 L NC
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP at 7-8 cm, no LAD  
CHEST: S/p Right mastectomy 
CV: RRR, normal S1 + S2, no m,r,g.
Lungs: Bibasilar inspirtory crackles. No wheezing, but prolonged 
expiratory phase. No rhonci.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

ON DISCHARGE:
VS T 97.2, afebrile overnight HR 101 BP 170/70 RR 18 SpO2 97% on 
3L  Standing wt: 51.2. Bed Wt 56.4 kg ___ (57.9 kg on ___
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CHEST: S/p Right mastectomy 
CV: RRR, normal S1 + S2, no m,r,g.
Lungs: Bibasilar inspirtory crackles. No wheezing, but prolonged 
expiratory phase. No rhonci.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
 
Pertinent Results:
ADMISSION LABS:

___ 02:35PM BLOOD WBC-10.0 RBC-4.21 Hgb-12.3 Hct-37.6 
MCV-89 MCH-29.2 MCHC-32.8 RDW-15.2 Plt ___
___ 02:35PM BLOOD Neuts-81.0* Lymphs-13.1* Monos-4.5 
Eos-1.0 Baso-0.4
___ 02:35PM BLOOD Plt ___
___ 02:35PM BLOOD Glucose-234* UreaN-23* Creat-0.9 Na-134 
K-8.8* Cl-98 HCO3-24 AnGap-21*
___ 02:35PM BLOOD cTropnT-<0.01 proBNP-422
___ 06:35AM BLOOD ALT-29 AST-27 LD(LDH)-210 AlkPhos-67 
TotBili-0.7
___ 06:35AM BLOOD Albumin-4.2 Calcium-9.9 Phos-3.4 Mg-2.2
___ 02:35PM BLOOD ___ pO2-44* pCO2-50* pH-7.38 
calTCO2-31* Base XS-2
___ 02:35PM BLOOD Lactate-3.1*

DISCHARGE LABS:
___ 05:32AM BLOOD WBC-11.0 RBC-4.02* Hgb-11.7* Hct-36.1 
MCV-90 MCH-29.2 MCHC-32.5 RDW-15.7* Plt ___
___ 05:32AM BLOOD Plt ___
___ 05:32AM BLOOD Glucose-102* UreaN-22* Creat-0.7 Na-142 
K-3.5 Cl-103 HCO___-29 AnGap-14

IMAGING:

CHEST (PORTABLE AP) ___:
FINDINGS:  
The cardiac, mediastinal and hilar contours appear stable.  
There is 
persistent volume loss in the right hemithorax with band-like 
opacity in the right lower lung, a fiducial marker, and similar 
effacement of the right costophrenic sulcus.  However, the 
appearance is very similar to the prior study.  Although a 
persistent pleural effusion is difficult to exclude on the 
right, there is no evidence for one on the left. 
IMPRESSION:  
Stable appearance of the chest. 

CTA CHEST W&W/O C&RECON ___:
IMPRESSION: 
1. No evidence of pulmonary embolism or acute aortic syndrome. 
2. Severe emphysema with superimposed mild pulmonary edema. 
3. Increasing malignant soft tissue thickening encasing the 
right mainstem 
bronchus and adjacent structures. 
4. Diffuse septal thickening in both lungs, especially in upper 
lungs.  Given 
diffuse appearance, pulmonary edema is favored as the most 
likely etiology. 

TRANSTHORACIC ECHOCARDIOGRAM ___:
IMPRESSION:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Late saline contrast is seen in 
left heart suggesting intrapulmonary shunting. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses are normal. Overall left ventricular systolic 
function is normal (LVEF = 65%). Tissue Doppler imaging suggests 
an increased left ventricular filling pressure (PCWP>18mmHg). 
The right ventricular free wall thickness is normal. Right 
ventricular chamber size is normal. with normal free wall 
contractility. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

MICROBIOLOGY:

___ 5:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Time Taken Not Noted     Log-In Date/Time: ___ 2:35 pm
      BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
___ y.o. woman with a history of COPD on 24h O2 3L NC, Stage II 
Squamous Cell Carcinoma s/p chemoradiation, Right Breast 
Invasive Lobuar Carcinoma s/p mastecomy presents with dyspnea 
and worsened hypoxia.

# Hypoxia: The patient was admitted in the setting of 
desaturating to 70% with minimal activity while already on 3L O2 
NC.  On admission, the patient's vital signs were VS T 97.0 HR 
107 BP 145/62 RR 18 SpO2 94% 4 L NC. The patient was initially 
on NRB in the ED where she received Methylpredisolone, nebs, and 
Azithromycin given concern for COPD exacerbation. CXR was 
unchanged from baseline. The patient had a Chest CT/CTA which 
was unremarkable for PE, but did demonstrate increasing 
malignant soft tissue thickening encasing the right mainstem 
bronchus and adjacent structures. The patient also had an TTE 
which demonstrated LVEF of 65% and late saline contrast is seen 
in left heart suggesting intrapulmonary shunting. The etiology 
of the patient's hypoxia was thought to be multifactorial: 
severe COPD vs possible lymphangitic spread of malignancy vs 
contribution from pulmonary shunting. The patient's presentation 
and exam was not convincing for a COPD exacerbation and 
prednisone and azithromycin were not continued. The patient's O2 
was increased to 5L NC and she was continued on 
albuterol/ipratropium nebs with improvement in her symptoms. The 
patient and her oncologist felt that she would not be a 
candidate for further interventions with regards to her 
malignancies and thus no further diagnostic workup 
(bronchosocopy, biopsies) were pursued during this 
hospitalization. At the time of discharge, the patient's dyspnea 
had improved and her oxygen saturation was 93-97% on ___ L NC. 

# Hypernatremia: Towards the end of her hospitalization, Na was 
found to be 147. Hypernatremia was thought to be due to poor 
fluid intake and diuresis. The patient's  calculated free H20 
deficit was 1.3 L. The patient was given D5W at 75 cc/hr for a 
total 1.3 L. At the time of discharge, Na improved to 142. 

# Goals of Care Discussion: Patient with end state COPD and 
possible recurrence of pulmonary and breast malignancy. Patient 
reports that she never had goals of care discussion. There is a 
possibility patient may need hospice care in the near future. 
Palliative care was consulted during this hospitalization. The 
patient expressed interest in outpatient followup with 
Palliative Care. 

CHRONIC ISSUES:

# Hypertension: The patient was continued on her home Lisinopril 
40 mg PO QDaily. 

# Diabetes Mellitus: The patient's home Metformin was held and 
was started on an insulin sliding scale during this 
hospitalization. The patient's FSGs were well-controlled. 

TRANSITIONAL ISSUES:
[] Code Status: Full
[] Patient home O2 increased to ___ L NC continuous
[] Patient discharged with Albuterol/Ipratropium nebs, nebulizer 
machine ordered
[] Blood cultures pending at discharge 
[] Patient will need Pulmonary followup for likely repeat PFTs, 
review of CTA for AVMs 
[] Patient will need Oncology followup
[] Patient will need Palliative Care outpatient followup
[] Patient will need post-discharge PCP followup 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN Wheezing 
6. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
7. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1. Supplemental Oxygen ___ L NC
Titrale O2 sat 88-92%, for COPD ICD9 codes 490, 491, 492
2. Nebulizer machine
Nebulizer Machine for Albuterol/Ipratropium use, COPD ICD9 codes 
490, ___, ___
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Dyspnea 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb INH every six 
(6) hours PRN Disp #*30 Vial Refills:*1
4. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Dyspnea  
RX *ipratropium bromide [Atrovent HFA] 17 mcg/actuation 1 neb 
INH every six (6) hours Disp #*30 Inhaler Refills:*1
5. Aspirin 81 mg PO DAILY 
6. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Lisinopril 40 mg PO DAILY 
9. Furosemide 20 mg PO DAILY 
10. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chronic Obstructive Pulmonary Disorder
Congestive Heart Failure 
Hypoxia 

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure caring for you during your hospitalization at 
the ___. As you know, you came 
in with shortness of breath and lower than your normal oxygen 
levels. We did X-rays and imaging of your chest which did not 
show any pneumonia or blood clots in your lungs. We treated you 
with more oxygen, steroids, and nebulizers. We did an ultrasound 
of your heart which did not show any abnormal findings. Your 
breathing and low oxygen improved with our treatments. We 
increased your home oxygen to ___ L 24 hours per day. We also 
ordered nebulizer machine for you to use with your home 
medications. 

Please take your medications as instructed. If you develop any 
worsening shortness of breath, chest pain, or lightheadedness 
please seek medical attention urgently. Please followup with 
primary care care doctor and other health providers.

Sincerely, 
Your ___ Care Team
Please take your 
 
Followup Instructions:
___